US08980911B2
N-[3-(2,4,6-Trichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide (Compound No. 45) was prepared using N-(1H-pyrrolo[2,3-c]pyridin-5-yl)cyclopropane carboxamide and 2,4,6-trichlorobenzoyl chloride.

reactant | N-(1H-pyrrolo[2,3-c]pyridin-5-yl)cyclopropane carboxamide | N1C=CC=2C1=CN=C(C2)NC(=O)C2CC2 | C11H11N3O
reactant | 2,4,6-trichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C(=CC(=C1)Cl)Cl | C7H2Cl4O
product | N-[3-(2,4,6-Trichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide | ClC1=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=CC(=C1)Cl)Cl | C18H12Cl3N3O2
